US06335353B1
2-(1-Hydroxyethyl)-3-hydroxy-pyran-4(1H)-one
3-Hydroxy-pyran-4(1H)-one (5.6 g, 50 mmol, 1 eq.) was added to 50 ml water and the pH of the solution was adjusted to 10.5 using 50% aqueous sodium hydroxide. Acetaldehyde (2.64 g, 60 mmol, 1.25 eq.) dissolved in 20 ml water was slowly added dropwise over 1 hour and the solution allowed to stir overnight. The reaction mixture was acidified to pH 1 with 37% w/v hydrochloric acid and concentrated in vacuo to dryness. The residue was extracted with 2×70 ml of isopropanol at 90° C. The isopropanol extracts were combined and concentrated to yield after recrystallisation from toluene, the pure product (3.7 g, 47.4%) as a pale yellow crystalline solid. m.p. 131-132° C. [lit. 130—131° C. (Ichimoto, 1970)].

reactant | 3-Hydroxy-pyran-4(1H)-one | 50 mmol, 5.6 g, 1 eq. | OC1=COC=CC1=O | C5H4O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Acetaldehyde | 60 mmol, 2.64 g, 1.25 eq. | C(C)=O | C2H4O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 2-(1-Hydroxyethyl)-3-hydroxy-pyran-4(1H)-one | OC(C)C=1OC=CC(C1O)=O | C7H8O4
